US04088695
4-Phenylbutanoyl chloride (14.7 g.) was added dropwise to a stirred solution of diazomethane (7.5 g.) in diethyl ether (340 ml.) at 0° C. The solution was stirred in an ice bath for 1 hour further and then it was saturated with anhydrous hydrogen chloride gas. After 1 hour at 0° C, dry nitrogen was passed through this solution, which was then poured onto crushed ice (about 300 ml.). The ethereal layer was separated and the aqueous phase was diluted with water (150 ml.), saturated with sodium chloride, and extracted with diethyl ether. The combined ethereal solutions were washed with water, aqueous sodium carbonate solution (2N), and then again with water, and dried over anhydrous magnesium sulphate. The solution was evaporated and the residue was distilled, to give 1-chloro-2-oxo-5-phenylpentane (11.5 g.), b.p. 150°-151° C./10 mm.Hg (Elemental analysis: C, 67.4; H, 7.1; Cl, 18.0%; C11H13C10 requires C, 67.2; H, 6.7; Cl, 18.0%. νmax 1455 cm-1, 1500 cm-1, 1725 cm-1).

reactant | 4-Phenylbutanoyl chloride | 14.7 g | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | diazomethane | 7.5 g | [N+](=[N-])=C | CH2N2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 340 ml | C(C)OCC | C4H10O
product | 1-chloro-2-oxo-5-phenylpentane | 11.5 g | ClCC(CCCC1=CC=CC=C1)=O | C11H13ClO
